US20010011143A1
4-(4-Fluorophenoxy)benzenesulfonyl Chloride
To a slurry of 15.0 g (0.052 mol) of 4-(4-fluorophenoxy)benzenesulfonic acid sodium salt, in 150 mL of dry toluene was added 11.3 mL (0 155 mol, 3 equivalents) of thionyl chloride and 0 04 mL (0.5 mmol, 0 01 equivalents) of dimethylformamide. The resulting mixture was stirred at room temperature for 48 hours, filtered through diatomaceous earth and concentrated under reduced pressure to 40 mL. This solution was used without further purification to prepare 1-[4-(4-fluorophenoxy)benzenesulfonylamino] cyclopentanecarboxylic acid benzyl ester.

reactant | 4-(4-fluorophenoxy)benzenesulfonic acid sodium salt | 0.052 mol, 15.0 g | [Na+].FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)[O-])C=C1
reactant | thionyl chloride | 155 mol, 11.3 mL, 3 equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.5 mmol | CN(C=O)C | C3H7NO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Fluorophenoxy)benzenesulfonyl Chloride | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C12H8ClFO3S
